US07166587B2
Phenyl-carbamic acid (S)-1-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-ethyl ester
The title compound, MS: m/e=430.3 (M+H+), was prepared in analogy to example 1 from phenylisocyanate and (S)-2-hydroxy-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-propionamide.

reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | (S)-2-hydroxy-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-propionamide | O[C@H](C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)C | C18H18N2O3
product | Phenyl-carbamic acid (S)-1-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-ethyl ester | CN1C2=C(C3=C(C(C1=O)NC(=O)[C@H](C)OC(NC1=CC=CC=C1)=O)C=CC=C3)C=CC=C2 | C25H23N3O4
